US08865726B2
To a solution of (S)-3-(2,4-dimethoxybenzyl)-5-isopropyl-imidazolidine-2,4-dione (0.550 g, 1.88 mmol) in THF (50 mL) at ambient temperature was added bis(2-methoxyethoxy)aluminumhydride (Red-Al) (2.69 ml, 9.41 mmol) and the resultant mixture heated at reflux for 1 hour. The reaction mixture was cooled to 0° C. and sodium sulfate decahydrate was added portion-wise. The resultant thick emulsion was diluted with THF and filtered through a pad of Celite. The filtrate was concentrated to a clear oil. Purification of the crude material by column chromatography, eluting with 1-5% MeOH/dichloromethane, afforded (S)-1-(2,4-dimethoxybenzyl)-4-isopropylimidazolidin-2-one as a colorless solid (0.329 g, 63%). LCMS (APCI+) m/z 279 [M+H]+.

reactant | (S)-3-(2,4-dimethoxybenzyl)-5-isopropyl-imidazolidine-2,4-dione | 1.88 mmol, 0.550 g | COC1=C(CN2C(N[C@H](C2=O)C(C)C)=O)C=CC(=C1)OC | C15H20N2O4
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-(2,4-dimethoxybenzyl)-4-isopropylimidazolidin-2-one | 0.329 g, 63% | COC1=C(CN2C(N[C@H](C2)C(C)C)=O)C=CC(=C1)OC | C15H22N2O3
